US07705053B2
Production of 4-methoxy-3-N-(2-methoxyphenyl)isophthalamide (Compound 1-3-10)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2-methoxyaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
product | 4-methoxy-3-N-(2-methoxyphenyl)isophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=C(C=CC=C1)OC | C16H16N2O4
